US05036075
The experiment is carried out as in Example 1, starting with 2-(4-chlorobutyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (3 g), 4-(4-hydroxyphenyl)piperazine dihydrobromide (3.8 g) and sodium bicarbonate (2.8 g) in a mixture of dimethylformamide (30 cc) and tetrahydrofuran (20 cc). The mixture is heated for 5 hours at boiling point, then cooled to a temperature of about 20° C. After purification by recrystallization from boiling acetone (215 cc), 2-{4-[4-(4-hydroxyphenyl)-1-piperazinyl]butyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (3.1 g) is obtained, m.p. 195° C.

reactant | 2-(4-chlorobutyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 3 g | ClCCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C14H14ClNO2S
reactant | 4-(4-hydroxyphenyl)piperazine dihydrobromide | 3.8 g | Br.Br.OC1=CC=C(C=C1)N1CCNCC1
reactant | sodium bicarbonate | 2.8 g | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 30 cc | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
product | 2-{4-[4-(4-hydroxyphenyl)-1-piperazinyl]butyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 3.1 g | OC1=CC=C(C=C1)N1CCN(CC1)CCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C24H27N3O3S
